US06872731B2
To a cooled (0° C.) suspension of 3-(3-hydroxyphenyl)thiophene-2-carbonitrile (0.63 g, 3.11 mmol) in dry dichloromethane (10 ml) was added dry pyridine (0.5 ml, 6.22 mmol) and the mixture stirred for 15 min. Trifluoromethanesulfonic anhydride (0.78 ml, 4.66 mmol) was added slowly and the reaction mixture stirred for 1 h then allowed to warm to ambient temperature for a further hour before pouring into water (40 ml) and dichloromethane (40 ml). The organic phase was separated, washed with brine (40 ml), dried over anhydrous magnesium sulfate and evaporated onto silica. The residue was purified by flash column chromatography on silica eluting with isohexane on a gradient of ethyl acetate from 10% to 30% to give trifluoromethanesulfonic acid 3-(2-cyanothien-3-yl)phenyl ester as a colourless oil (0.69 g, 66%). 1H NMR (360 MHz, CDCl3) δH 7.29 (1H, dd, J 5 and 1), 7.36 (1H, dd, J 8 and 2), 7.56-7.62 (2H, m), 7.67 (1H, d, J 5), 7.76 (1H, dd, J 8 and 1).

reactant | 3-(3-hydroxyphenyl)thiophene-2-carbonitrile | 3.11 mmol, 0.63 g | OC=1C=C(C=CC1)C1=C(SC=C1)C#N | C11H7NOS
reactant | pyridine | 6.22 mmol, 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 4.66 mmol, 0.78 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 3-(2-cyanothien-3-yl)phenyl ester | 0.69 g, 66% | C(#N)C=1SC=CC1C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C12H6F3NO3S2
